US06310211B1
5-Flouro-8-hydroxy-N-(phenylmethyl)-7-quinolinesulfonamide (Formula S-3) Refer to Chart S
A suspension of 5-fluoro-8-hydroxy-7-quinolinesulfonyl chloride (0.150 g) in 2 mL of THF is cooled to −78° C. and treated with benzylamine (0.186 mL). The mixture is allowed to warm to 25° C. over several hours, then diluted with 50 μL of glacial acetic acid and 2 mL of distilled water. The oil which forms is crystallized by scratching, and the resulting suspension is stirred for one hour. The solid is filtered, washed with two 2 mL portions of distilled water and dried in a stream of air to give 0.121 g of the title compound as a solid.

reactant | 5-fluoro-8-hydroxy-7-quinolinesulfonyl chloride | 0.150 g | FC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)Cl)O | C9H5ClFNO3S
reactant | benzylamine | 0.186 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | 5-Flouro-8-hydroxy-N-(phenylmethyl)-7-quinolinesulfonamide | 0.121 g | FC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NCC1=CC=CC=C1)O | C16H13FN2O3S
